US05654316
3,4-Dichloro-beta-[2-[(4-chlorophenyl)amino]-2-oxoethyl]benzenepropanoic acid
3-(3,4-Dichlorophenyl)glutaric anhydride in CH2Cl2 (75 mL) at 0° C. was treated sequentially with 4-chloroaniline (2.25 g), triethylamine (1.79 g) and N,N-dimethylaminopyridine (trace). The mixture was stirred at 0° C. for two hours then allowed to warm to room temperature and stirred for 12 hours. The reaction mixture was washed with 1N HCl (3×50 mL) and water (50 mL). The organic layers were dried over MgSO4, filtered and concentrated to afford the title compound (4.9 g).

reactant | 3-(3,4-Dichlorophenyl)glutaric anhydride | ClC=1C=C(C=CC1Cl)C1CC(=O)OC(C1)=O | C11H8Cl2O3
reactant | 4-chloroaniline | 2.25 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | triethylamine | 1.79 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | 3,4-Dichloro-beta-[2-[(4-chlorophenyl)amino]-2-oxoethyl]benzenepropanoic acid | 4.9 g | ClC=1C=C(C=CC1Cl)C(CC(=O)O)CC(=O)NC1=CC=C(C=C1)Cl | C17H14Cl3NO3
